* source LAB 6 ACTIVE BANDPASS FILTER
E_U1         N00546 0 VALUE {LIMIT(V(0,N00514)*1E6,-15V,+15V)}
E_U2         N00596 0 VALUE {LIMIT(V(0,N00579)*1E6,-15V,+15V)}
E_U3         VOUT 0 VALUE {LIMIT(V(0,N00620)*1E6,-15V,+15V)}
V_V1         VIN 0 DC 0Vdc AC 0.3V 
R_R2         VIN N00514  3315.73 TC=0,0 
R_R3         N00546 N00575  994.72 TC=0,0 
R_R4         N00596 N00620  1k TC=0,0 
R_R5         N00514 N00546  3315.73 TC=0,0 
R_R6         N00579 N00596  994.72 TC=0,0 
R_R7         N00620 VOUT  10000 TC=0,0 
C_C2         N00514 N00546  2.4n  TC=0,0 
C_C3         N00575 N00579  800n  TC=0,0 
