* source LAB 2 NON-INVERTING AMPLIFIER
E_U1         VO 0 VALUE {LIMIT(V(N00754,N00761)*1E6,-15V,+15V)}
V_V1         N00754 0  
+SIN 0 200mV 100 0 0 0
X_R1         N00773 N00761 VO POT PARAMS: SET=1 VALUE=10k
R_R2         0 N00773  1.5k TC=0,0 
