* source LAB 4-AC ANALYSIS
R_R2         N00177 N00137  1k TC=0,0 
R_R3         N00153 N00137  240 TC=0,0 
C_C1         0 N00137  0.33uF  TC=0,0 
L_L1         0 N00153  100mH  
V_V1         N00177 0  AC 1
+SIN 0 1 100 0 0 0
