* source LAB1 SERIES NETWORK
R_R1         N00165 N00129  1k TC=0,0 
R_R2         N00129 N00142  10 TC=0,0 
R_R5         0 N00129  1k TC=0,0 
R_R3         N00151 N00142  10 TC=0,0 
R_R4         N00151 0  34 TC=0,0 
V_V1         N00165 0 5V
