* source LAB 5
V_V1         VIN 0 DC 0Vdc AC 1Vac 0
V_V2         VIN2 0 DC 0Vdc AC 1Vac 0
V_V3         VIN3 0 DC 0Vdc AC 1Vac 0
R_R1         VIN VOUT  1k TC=0,0 
R_R2         0 VOUT2  1k TC=0,0 
R_R3         0 VOUT3  1k TC=0,0 
C_C1         0 VOUT  100n  TC=0,0 
C_C2         VOUT2 VIN2  100n  TC=0,0 
C_C3         N00309 VIN3  100n  TC=0,0 
L_L1         N00309 VOUT3  1mH  
