* source LAB 8-LAPLACE TRANSFORM ANALYSIS
V_V1         VIN 0 5v
V_V2         N00267 0  
+PULSE 0 5 0 1f 1f 3m 6m
X_S1    N00267 0 VIN N00325 SCHEMATIC1_S1 
R_R1         N00325 VOUT  470 TC=0,0 
R_R2         VOUT N00336  100 TC=0,0 
R_R3         N00345 N00336  90 TC=0,0 
C_C1         0 VOUT  1u  TC=0,0 
L_L1         0 N00345  33m  

.subckt SCHEMATIC1_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=270 Voff=0v Von=5v
.ends SCHEMATIC1_S1
